US06949542B2
8-Methyl-4-[3-(6-methyl-pyrazin-2-yl)-phenyl]-7-trifluoromethyl-1,3-dihydro-benzo[b][1,4]diazepin-2-one
The title compound was prepared from (4-methyl-2-{3-[3-(6-methyl-pyrazin-2-yl)-phenyl]-3-oxo-propionylamino}-5-trifluoromethyl-phenyl)-carbamic acid tert-butyl ester (Example M118) (0.39 g, 0.74 mmol) by treatment with TFA in CH2Cl2 according to the general procedure N. Obtained as an off-white solid (237 mg, 78%).

reactant | (4-methyl-2-{3-[3-(6-methyl-pyrazin-2-yl)-phenyl]-3-oxo-propionylamino}-5-trifluoromethyl-phenyl)-carbamic acid tert-butyl ester | 0.74 mmol, 0.39 g | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)C(F)(F)F)C)NC(CC(=O)C1=CC(=CC=C1)C1=NC(=CN=C1)C)=O)=O | C27H27F3N4O4
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 8-Methyl-4-[3-(6-methyl-pyrazin-2-yl)-phenyl]-7-trifluoromethyl-1,3-dihydro-benzo[b][1,4]diazepin-2-one | CC=1C(=CC2=C(NC(CC(=N2)C2=CC(=CC=C2)C2=NC(=CN=C2)C)=O)C1)C(F)(F)F | C22H17F3N4O
